US08252781B2
Methyl 4-(3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl)adamantane-1-carboxylate and 4-fluorobenzyl bromide were used for a similar reaction and treatment as Process 6 of Example 1, and methyl 4-[2-(4-fluorobenzyl)-3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl]adamantane-1-carboxylate was obtained as a colorless oil.

reactant | Methyl 4-(3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl)adamantane-1-carboxylate | CC1(NN(C1=O)C1C2CC3(CC(CC1C3)C2)C(=O)OC)C | C16H24N2O3
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | methyl 4-[2-(4-fluorobenzyl)-3,3-dimethyl-4-oxo-1,2-diazetidin-1-yl]adamantane-1-carboxylate | FC1=CC=C(CN2N(C(C2(C)C)=O)C2C3CC4(CC(CC2C4)C3)C(=O)OC)C=C1 | C23H29FN2O3
